US04528194
In 1.2 liters of ethanol were dissolved 120 g (0.31 mol) of 2-(4-diphenylmethylpiperazinyl)-1-(4-hydroxyphenyl)-ethanol, 74.8 g (0.62 mol) of allyl bromide and 41 g of potassium hydroxide. The resultant solution was heated with refluxing for one hour. After cooling the solution and then removing the solvent, the residue was added with 1.0 liter of ethyl acetate. The resultant mixture was washed successively with an aqueous 1N solution of sodium hydroxide, water and saturated saline, followed by drying over anhydrous sodium sulfate. The solvent was removed, and the residue was crystallized from a mixed solvent of ethanol and n-hexane to give 84.6 g of 1-(4-allyloxyphenyl)-2-(4-diphenylmethylpiperazinyl)ethanol (yield: 64%).

reactant | 2-(4-diphenylmethylpiperazinyl)-1-(4-hydroxyphenyl)-ethanol | 0.31 mol, 120 g | C1(=CC=CC=C1)C(N1CCN(CC1)CC(O)C1=CC=C(C=C1)O)C1=CC=CC=C1 | C25H28N2O2
reactant | allyl bromide | 0.62 mol, 74.8 g | C(C=C)Br | C3H5Br
reactant | potassium hydroxide | 41 g | [OH-].[K+]
solvent | ethanol | 1.2 liters | C(C)O | C2H6O
product | 1-(4-allyloxyphenyl)-2-(4-diphenylmethylpiperazinyl)ethanol | 84.6 g, yield: 64% | C(C=C)OC1=CC=C(C=C1)C(CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)O | C28H32N2O2
